US08003796B2
Preparation of 2-chlorophenyl 3-((1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)methyl)pyrrolidine-1-carboxylate
Example 19 was prepared according to procedures described in Example 2, Step A and Step C, substituting tert-butyl 3-((1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)methyl)pyrrolidine-1-carboxylate for tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate in Step A and 2-chlorophenyl chloroformate for 1,1,1-trifluoropropan-2-yl chloroformate in Step C. 1H NMR (500 MHz, CDCl3) δ 8.08 (d, J=8.80 Hz, 2H), 7.61 (d, J=8.80 Hz, 2H), 7.43 (d, J=8.25 Hz, 1H), 7.23-7.31 (m, 3H), 7.14-7.19 (m, 1H), 6.10-6.21 (m, 2H), 3.38-4.14 (m, 6H), 3.10 (s, 3H), 2.77-2.93 (m, 1 H), 2.15-2.32 (m, 1H), 1.83-2.00 (m, 1H). MS (ESI) 503 (M+H).

reactant | tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H28N2O6S
reactant | 2-chlorophenyl chloroformate | ClC(=O)OC1=C(C=CC=C1)Cl | C7H4Cl2O2
reactant | 1,1,1-trifluoropropan-2-yl chloroformate | ClC(=O)OC(C(F)(F)F)C | C4H4ClF3O2
product | 2-chlorophenyl 3-((1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)methyl)pyrrolidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OCC1CN(CC1)C(=O)OC1=C(C=CC=C1)Cl)=O | C24H23ClN2O6S
